US07776857B2
In a nitrogen purged sealed tube, 8-chloro-3-methoxy-1,5-naphthyridine (0.053 g, 0.271 mmol) was dissolved in DMF (2.00 mL). 4-(4-(4-Tert-butylphenyl)phthalazin-1-ylamino)phenol (0.100 g, 0.271 mmol) and cesium carbonate (0.176 g, 0.541 mol) were added, and the mixture in the tube was stirred at 90° C. for 17 h. Upon cooling to RT, the mixture was concentrated in vacuo, and purified by silica gel chromatography using 0-100% CH2Cl2:MeOH(90:10)/CH2Cl2 to yield 4-(4-tert-butylphenyl)-N-(4-(7-methoxy-1,5-naphthyridin-4-yloxy)phenyl)phthalazin-1-amine as off-white solid. MS [M+H]=528.1; Calc'd 527.6 for C33H29N5O2.

reactant | 8-chloro-3-methoxy-1,5-naphthyridine | 0.271 mmol, 0.053 g | ClC=1C=CN=C2C=C(C=NC12)OC | C9H7ClN2O
reactant | 4-(4-(4-Tert-butylphenyl)phthalazin-1-ylamino)phenol | 0.271 mmol, 0.100 g | C(C)(C)(C)C1=CC=C(C=C1)C1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)O | C24H23N3O
reactant | cesium carbonate | 0.541 mol, 0.176 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 2.00 mL | CN(C)C=O | C3H7NO
product | 4-(4-tert-butylphenyl)-N-(4-(7-methoxy-1,5-naphthyridin-4-yloxy)phenyl)phthalazin-1-amine | C(C)(C)(C)C1=CC=C(C=C1)C1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=CN=C12)OC | C33H29N5O2
